US08937041B2
To (1R,2S)-ethyl 1-(tert-butoxycarbonylamino)-2-vinylcyclopropanecarboxylate (10 g, 39.2 mmol) and Boc anhydride (22.73 mL, 98 mmol) dissolved in tetrahydrofuran (25 mL) at room temperature was added portionwise DMAP (3.83 g, 31.3 mmol) and the mixture was stirred for 3 h. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with 0.1 N HCl followed by saturated aqueous sodium chloride solution, separated, dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure. The residual oil was purified by flash chromatography on silica gel eluting with a 5-15% ethyl acetate/hexane gradient to provide (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-vinylcyclopropanecarboxylate (13.2 g, 37.1 mmol, 95% yield) as a clear oil. MS (ESI): m/z=378.0 [M+Na]. To a solution of (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-vinylcyclopropane carboxylate (13.2 g, 37.1 mmol) in tetrahydrofuran (50 mL) at -15° C. was added dropwise 1 N borane tetrahydrofuran complex (74.3 mL, 74.3 mmol) and the mixture was stirred for 2 h at −15° C. To the resulting mixture stirring at 0° C. was added dropwise water (100 mL) followed by sodium perborate tetrahydrate (11.43 g, 74.3 mmol), and the mixture was stirred for 16 hr at rt. The reaction mixture was diluted with ethyl acetate and water, and the resulting organic layer was washed with saturated aqueous sodium chloride solution, separated, dried over anhydrous magnesium sulfate, filtered, and the solvent evaporated under reduced pressure. The residue was purified via flash chromatography on silica gel (10-20% acetone/hex). The resulting impure material was repurified by flash chromatography on silica gel (eluting with a 25%-50% ethyl acetate/hexane gradient) to give (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-hydroxyethyl)cyclopropanecarboxylate (9.15 g, 24.50 mmol, 66.0% yield) as an oil. MS (ESI): m/z=396.0 [M+Na].

reactant | (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-vinylcyclopropane carboxylate | 37.1 mmol, 13.2 g | C(C)(C)(C)OC(=O)N([C@]1([C@@H](C1)C=C)C(=O)OCC)C(=O)OC(C)(C)C | C18H29NO6
reactant | sodium perborate tetrahydrate | 74.3 mmol, 11.43 g | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-hydroxyethyl)cyclopropanecarboxylate | 24.50 mmol, 9.15 g, 66.0% yield | C(C)(C)(C)OC(=O)N([C@]1([C@@H](C1)CCO)C(=O)OCC)C(=O)OC(C)(C)C | C18H31NO7
